US07220744B2
b) 1-[5-(Propane-2-sulfonyl)-thiazol-2-yl]-piperazine hydrochloride
Prepared in analogy to example 4 (d) from 4-[5-(propane-2-sulfonyl)-thiazol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester and hydrogen chloride solution. The crude material was purified by recrystallisation from ether to afford the title compound as a white crystalline solid (yield 97%). MS (m/e): 276.4 (M+H+, 100%).

reactant | 4-[5-(propane-2-sulfonyl)-thiazol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)S(=O)(=O)C(C)C | C15H25N3O4S2
reactant | hydrogen chloride | Cl | ClH
product | 1-[5-(Propane-2-sulfonyl)-thiazol-2-yl]-piperazine hydrochloride | yield 97% | Cl.CC(C)S(=O)(=O)C1=CN=C(S1)N1CCNCC1 | InChI=1S/C10H17N3O2S2.ClH/c1-8(2)17(14,15)9-7-12-10(16-9)13-5-3-11-4-6-13;/h7-8,11H,3-6H2,1-2H3;1H
